### PR TITLE
feat(Topology/Compactness): first-countable locally path-connected spaces are delta-generated

### PR DESCRIPTION
**Pull request by peabrainiac**
Shows that all first-countable locally path-connected spaces are delta-generated (so in particular all normed spaces and convex subsets thereof are), and that delta-generated spaces are equivalently generated by the unit interval or standard simplices.

---

- [ ] depends on: #21616

In principle, this should be close to all that's required to show that all simplicial complexes and CW-complexes are delta-generated; I just haven't done it yet because I'm not sure which file to best do it in.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 1]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
     [∀ i, DeltaGeneratedSpace (X i)] : DeltaGeneratedSpace (Σ i, X i) :=
   .iSup fun _ ↦ .coinduced _
+
+/-- The concatenation of countably many paths leading up to some point `x` as a function. The
+  corresponding path is defined separately because continuity is annoying to prove. -/
+private noncomputable def Path.sigmaConcatFun {X : Type*} [TopologicalSpace X] {s : ℕ → X}
+    (γ : (n : ℕ) → Path (s n) (s n.succ)) (x : X) : I → X := fun t ↦ by
+  refine if ht : t < 1 then ?_ else x
+  have ht' : 0 < σ t := by rw [lt_symm_comm]; simp [ht]
+  let n := Nat.floor (- Real.logb 2 (σ t))
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:190]: Can you use the notation?
```suggestion
  let n := ⌊- Real.logb 2 (σ t)⌋₊
```

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 2]
```diff
@@ -4,6 +4,8 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Ben Eltschig
 -/
 import Mathlib.Analysis.LocallyConvex.WithSeminorms
+import Mathlib.Topology.ContinuousMap.Interval
+import Mathlib.Analysis.SpecialFunctions.Log.Base
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:8]: Can you keep imports sorted?
```suggestion
import Mathlib.Analysis.LocallyConvex.WithSeminorms
import Mathlib.Analysis.SpecialFunctions.Log.Base
import Mathlib.Topology.ContinuousMap.Interval
```

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 3]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
+    linarith, by
+    have hn : _ < (n.succ : ℝ) := Nat.lt_succ_floor _
+    have h : (σ t).1⁻¹ ≤ 2 * 2 ^ (n : ℝ) := by
+      rw [Real.rpow_natCast, ← pow_succ', ← Real.rpow_natCast]
+      refine (Eq.le ?_).trans <| Real.rpow_le_rpow_of_exponent_le one_le_two hn.le
+      rw [Real.rpow_neg zero_le_two, Real.rpow_logb two_pos (by simp) (by simp [ht])]
+    suffices h : 1 ≤ (σ t) * (2 * (2 : ℝ) ^ (n : ℝ)) by rw [mul_left_comm] at h; linarith
+    refine (mul_inv_cancel₀ ?_).symm.le.trans <| mul_le_mul_of_nonneg_left h (σ t).2.1
+    exact (coe_pos.2 ht').ne.symm⟩
+  exact γ n t'
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:209]: Here's a better way to present this definition
```suggestion
  let n := ⌊- Real.logb 2 (σ t)⌋₊
  refine if ht : t < 1 then γ n ⟨2 * (1 - σ t * 2 ^ (n : ℝ)), ?_, ?_⟩ else x
  · have ht' : 0 < σ t := by rw [lt_symm_comm]; simp [ht]
    have hn : (n : ℝ) ≤ _ := Nat.floor_le (a := - Real.logb 2 (σ t)) <|
      Left.nonneg_neg_iff.2 <| Real.logb_nonpos one_lt_two (σ t).2.1 (σ t).2.2
    have h : (2 : ℝ) ^ (n : ℝ) ≤ (σ t).1 ⁻¹ := by
      refine (Real.rpow_le_rpow_of_exponent_le one_le_two hn).trans ?_
      rw [Real.rpow_neg zero_le_two, Real.rpow_logb two_pos (by simp) (by simp [ht])]
    have h' : (σ t) * (2 : ℝ) ^ (n : ℝ) ≤ 1 := by
      refine (mul_le_mul_of_nonneg_left h (σ t).2.1).trans (mul_inv_cancel₀ ?_).le
      exact (coe_pos.2 ht').ne.symm
    linarith
  · have hn : _ < (n.succ : ℝ) := Nat.lt_succ_floor _
    have ht' : 0 < σ t := by rw [lt_symm_comm]; simp [ht]
    have h : (σ t).1⁻¹ ≤ 2 * 2 ^ (n : ℝ) := by
      rw [Real.rpow_natCast, ← pow_succ', ← Real.rpow_natCast]
      refine (Eq.le ?_).trans <| Real.rpow_le_rpow_of_exponent_le one_le_two hn.le
      rw [Real.rpow_neg zero_le_two, Real.rpow_logb two_pos (by simp) (by simp [ht])]
    suffices h : 1 ≤ (σ t) * (2 * (2 : ℝ) ^ (n : ℝ)) by rw [mul_left_comm] at h; linarith
    refine (mul_inv_cancel₀ ?_).symm.le.trans <| mul_le_mul_of_nonneg_left h (σ t).2.1
    exact (coe_pos.2 ht').ne.symm
```

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 4]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
+
+/-- On closed intervals [1 - 2 ^ n, 1 - 2 ^ (n + 1)], `sigmaConcatFun γ x` agrees with a
+  reparametrisation of `γ n`. -/
+private lemma Path.sigmaConcatFun_eqOn {X : Type*} [TopologicalSpace X] {s : ℕ → X}
+    (γ : (n : ℕ) → Path (s n) (s n.succ)) {x : X} (n : ℕ) :
+    Set.EqOn (sigmaConcatFun γ x) (fun t ↦ (γ n).extend (2 * (1 - (1 - t) * (2 ^ n))))
+    (Set.Icc (σ ⟨1 / 2 ^ n, by simp [inv_le_one₀, one_le_pow₀]⟩)
+      (σ ⟨1 / 2 ^ (n+1), by simp [inv_le_one₀, one_le_pow₀]⟩)) := fun t ht ↦ by
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:217]: Can you avoid using `1 / _`?
```suggestion
    (Set.Icc (σ ⟨2⁻¹  ^ n, by simp [inv_le_one₀, one_le_pow₀]⟩)
      (σ ⟨2⁻¹ ^ (n+1), by simp [inv_le_one₀, one_le_pow₀]⟩)) := fun t ht ↦ by
  simp only [Set.mem_Icc, ← Subtype.coe_le_coe, coe_symm_eq] at ht
```

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 5]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
+      refine Real.logb_nonpos ?_ ?_ ?_ <;> simp [t.2.1, t.2.2]
+    rw [ht'', extend_one]; convert (γ (n + 1)).source
+    simp [hn, pow_succ]
+    linear_combination ht''
+
+/-- The concatenation of countably many paths leading up to some point `x`. -/
+private noncomputable def Path.sigmaConcat {X : Type*} [TopologicalSpace X] {s : ℕ → X}
+    (γ : (n : ℕ) → Path (s n) (s n.succ)) (x : X) {b : ℕ → Set X} (hb : (𝓝 x).HasAntitoneBasis b)
+    (hγ : ∀ n t, γ n t ∈ b n) : Path (s 0) x where
+  toFun := sigmaConcatFun γ x
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:257]: This looks like a great definition. Why keep it private? I think it should live in an earlier file too (possibly a new file)

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 6]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
+        · rw [Real.rpow_neg two_pos.le]; simp [← Real.rpow_natCast]
+      refine Eq.trans_le (by simp [hn]) <| Nat.floor_le <| Left.nonneg_neg_iff.2 ?_
+      refine Real.logb_nonpos ?_ ?_ ?_ <;> simp [t.2.1, t.2.2]
+    rw [ht'', extend_one]; convert (γ (n + 1)).source
+    simp [hn, pow_succ]
+    linear_combination ht''
+
+/-- The concatenation of countably many paths leading up to some point `x`. -/
+private noncomputable def Path.sigmaConcat {X : Type*} [TopologicalSpace X] {s : ℕ → X}
+    (γ : (n : ℕ) → Path (s n) (s n.succ)) (x : X) {b : ℕ → Set X} (hb : (𝓝 x).HasAntitoneBasis b)
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:255]: It feels a bit weird to ask for an antitone basis when in fact an *eventually* antitone basis is enough. I want to say something like "the paths uniformly converge towards the point", but I'm not sure how to say that without the data of a uniformity

File: Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean [hunk 7]
```diff
@@ -181,3 +180,247 @@ instance Sum.deltaGeneratedSpace [DeltaGeneratedSpace X] [DeltaGeneratedSpace Y]
...
+    · have h := mul_le_mul_of_nonneg_right ht.2 (a := 2 ^ (n+1)) (by simp)
+      rw [sub_mul, IsUnit.div_mul_cancel (by simp), pow_succ] at h
+      linarith
+  · replace hn : ⌊-Real.logb 2 (1 - ↑t)⌋₊ = n + 1 := by
+      refine le_antisymm ?_ <| n.succ_le_of_lt <| (Ne.symm hn).lt_of_le ?_
+      · refine (Nat.floor_le_floor <| neg_le_neg <| Real.logb_le_logb_of_le one_lt_two (by simp) <|
+          le_sub_comm.1 ht.2).trans <| by simp [- Nat.cast_add, Real.logb_pow]
+      · exact (Eq.le (by simp [Real.logb_pow])).trans <| Nat.floor_le_floor <|
+          neg_le_neg <| Real.logb_le_logb_of_le one_lt_two ht'' <| sub_le_comm.1 ht.1
+    have ht'' : (2 * (1 - (1 - t.1) * 2 ^ n)) = 1 := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Compactness/DeltaGeneratedSpace.lean:238]:
```suggestion
    have ht'' : 2 * (1 - (1 - t.1) * 2 ^ n) = 1 := by
```

**Comment by kbuzzard** [comment]
We've just had a look at this PR at the triage party; here are some comments.
1) This work looks great; I wonder if some of the private lemmas should in fact be public (specifically the one gluing infinitely many paths to form a path)
2) The large imports are nothing to worry about; this is basically a leaf file and if the logarithm is useful here, that's great.
3) Some of the proofs might need some rewriting but only in a minor way; it was a bit jarring to see a definition with a very long proof in the middle when the goal was still a type, but probably this doesn't actually matter.
4) I am always scared of `convert; [several more lines of proof]` because such proofs can be hard to maintain later on.

**Comment by peabrainiac** [comment]
In addition to incorporating some of the smaller suggestions, I have replaced my previous usage of `⌊Real.logb 2 x⌋₊` with `Nat.log 2 ⌊x⌋₊` following a suggestion by Yael on discord. This has cut down on the large imports significantly - while I still rely on analysis files for `tendsto_pow_atTop_nhds_zero_of_abs_lt_one` in `LocPathConnectedSpace.eq_coinduced_paths`, the lemmas regarding `Path.sigmaConcat` now depend only on `Data.Nat.Log`, and should thus be fine to move to e.g. `Mathlib.Topology.Connected.PathConnected`. I will try that in a few hours when I have time.

**Comment by YaelDillies** [comment]
(for the record, since the bot threw away its original message, the previous import increase was +188. It now is +61)

**Comment by peabrainiac** [comment]
I have changed `Path.sigmaConcat` and the lemmas surrounding it from private to public, moved them to `PathConnected.lean` and also added a lemma `Path.sigmaConcat_eq_trans` relating `Path.sigmaConcat` to simple concatenation of paths, since I felt that was too important to be left out if this is meant to be public API.

However, doing that has pushed `PathConnected.lean` beyond the 1500 line limit, so I have opened another PR #21591 to split it up; it should be ready for review now. I will come back to this PR tomorrow to hopefully also get it into a final state.

File: Mathlib/Topology/ContinuousOn.lean [hunk 8]
```diff
@@ -1495,6 +1495,17 @@ lemma ContinuousOn.union_continuousAt
   (fun h => ContinuousWithinAt.continuousAt (continuousWithinAt hs h) <| IsOpen.mem_nhds s_op h)
   (ht _)
 
+open Classical in
+/-- If a function is continuous on two closed sets, it is also continuous on their union. -/
+theorem ContinuousOn.union_isClosed {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
+    {s t : Set X} (hs : IsClosed s) (ht : IsClosed t) {f : X → Y} (hfs : ContinuousOn f s)
+    (hft : ContinuousOn f t) : ContinuousOn f (s ∪ t) := by
+  refine fun x hx ↦ ContinuousWithinAt.union ?_ ?_
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousOn.lean:1503]:
```suggestion
  refine fun x hx ↦ .union ?_ ?_
```

File: Mathlib/Topology/ContinuousOn.lean [hunk 9]
```diff
@@ -1495,6 +1495,17 @@ lemma ContinuousOn.union_continuousAt
...
+  · refine if hx : x ∈ s then hfs x hx else continuousWithinAt_of_not_mem_closure ?_
+    rw [hs.closure_eq]; exact hx
+  · refine if hx : x ∈ t then hft x hx else continuousWithinAt_of_not_mem_closure ?_
+    rw [ht.closure_eq]; exact hx
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousOn.lean:1507]:
```suggestion
    rwa [hs.closure_eq]
  · refine if hx : x ∈ t then hft x hx else continuousWithinAt_of_not_mem_closure ?_
    rwa [ht.closure_eq]
```

File: Mathlib/Topology/ContinuousOn.lean [hunk 10]
```diff
@@ -1495,6 +1495,17 @@ lemma ContinuousOn.union_continuousAt
   (fun h => ContinuousWithinAt.continuousAt (continuousWithinAt hs h) <| IsOpen.mem_nhds s_op h)
   (ht _)
 
+open Classical in
+/-- If a function is continuous on two closed sets, it is also continuous on their union. -/
+theorem ContinuousOn.union_isClosed {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
+    {s t : Set X} (hs : IsClosed s) (ht : IsClosed t) {f : X → Y} (hfs : ContinuousOn f s)
+    (hft : ContinuousOn f t) : ContinuousOn f (s ∪ t) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousOn.lean:1502]: I'm having a hard time thinking we don't have this, but I can't find it even with loogle. Can you make it a separate PR so as to lure people like Patrick into reviewing?

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 11]
```diff
@@ -1206,6 +1388,17 @@ theorem isOpen_isPathConnected_basis (x : X) :
   exact ⟨pathComponentIn x u, ⟨hu.pathComponentIn _, ⟨mem_pathComponentIn_self hxu,
     isPathConnected_pathComponentIn hxu⟩⟩, pathComponentIn_subset.trans hus⟩
 
+/-- In a first-countable locally path-connected space, every point has a neighbourhood basis
+  that is a decreasing sequence of path-connected sets. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/Connected/PathConnected.lean:1392]: Please don't indent docstrings by default
```suggestion
that is a decreasing sequence of path-connected sets. -/
```

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 12]
```diff
@@ -656,6 +657,187 @@ theorem refl_reparam {f : I → I} (hfcont : Continuous f) (hf₀ : f 0 = 0) (hf
...
+      use Set.Ioi ⟨1 - (2 ^ n)⁻¹, by rw [sub_nonneg, inv_le_one₀] <;> simp [one_le_pow₀], by simp⟩
+      refine ⟨fun t ht ↦ ?_, isOpen_Ioi, by simp [← coe_lt_one]⟩
+      by_cases ht' : t < 1
+      · have ht'' := symm_one ▸ symm_lt_symm.2 ht'; have ht''' := coe_pos.2 ht''
+        simp only [sigmaConcatFun, ht', reduceDIte]
+        convert hb.2 _ <| hγ (Nat.log 2 _) _ using 1
+        rw [← Nat.pow_le_iff_le_log one_lt_two (Nat.floor_pos.2 <| (one_le_inv₀ ht''').2
+          (σ t).2.2).ne.symm, Nat.le_floor_iff (inv_pos.2 ht''').le, le_inv_comm₀ (by simp) ht''',
+          coe_symm_eq, sub_le_comm]
+        apply LT.lt.le; simpa using ht
```
Comment (YaelDillies) [inline Mathlib/Topology/Connected/PathConnected.lean:783]:
```suggestion
        simpa using ht.le
```

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 13]
```diff
@@ -656,6 +657,187 @@ theorem refl_reparam {f : I → I} (hfcont : Continuous f) (hf₀ : f 0 = 0) (hf
   ext
   simp
 
+/-! #### Concatenating countably many paths -/
+
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Connected/PathConnected.lean:662]:
```suggestion
```

File: Mathlib/Topology/Connected/PathConnected.lean
Comment (YaelDillies) [inline Mathlib/Topology/Connected/PathConnected.lean:1]: Can this too become a separate PR?

File: Mathlib/Topology/Connected/PathConnected.lean (hunk 12 above)
Comment (peabrainiac) [reply Mathlib/Topology/Connected/PathConnected.lean]: This doesn't work, and `simpa using (Set.mem_Ioi.1 ht).le`  doesn't either; I'm not really sure why, but I'm guessing whatever would work isn't going to be shorter than `apply LT.lt.le; simpa using ht`, so I'm keeping this line as is for now.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
